US08378095B2
To a stirred solution of ethyl picolinoylacetate (0.500 g, 2.6 mmol) in acetic acid (0.5 mL) was added a solution of sodium nitrite (0.238 g, 3.4 mmol) in water (0.5 mL), dropwise. The resulting solution was stirred at room temperature for 2 hours after which water (0.5 mL) was added and the reaction was stirred for a further 2 hours. The mixture was extracted with Et2O and the combined organic phase was washed with water, saturated sodium bicarbonate solution and brine, dried over MgSO4 and the solvent removed in vacuo to afford ethyl 2-(hydroxyimino)-3-oxo-3-(pyridin-2-yl)propanoate (0.353 g, 1.6 mmol, 61%) as a white solid. 1H NMR (DMSO) δ 1.17 (3H, t), 4.22 (2H, q), 7.74 (1H, m), 8.04-8.11 (2H, m), 8.74 (1H, m), 12.87 (1H, s). LCMS (2) Rt: 1.09 min; m/z (ES+) 223.

reactant | ethyl picolinoylacetate | 2.6 mmol, 0.500 g | N1=C(C=CC=C1)C(=O)CC(=O)OCC | C10H11NO3
reactant | sodium nitrite | 3.4 mmol, 0.238 g | N(=O)[O-].[Na+]
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | water | 0.5 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
product | ethyl 2-(hydroxyimino)-3-oxo-3-(pyridin-2-yl)propanoate | 1.6 mmol, 0.353 g, 61% | ON=C(C(=O)OCC)C(C1=NC=CC=C1)=O | C10H10N2O4
